US05227393
(1) 1-(4-bromobenzyl)-1,2,4-triazole
A mixture of 1 g of 4-bromobenzyl bromide, 0.41 g of 1,2,4-triazole, 0.55 g of potassium carbonate and 33 mg of potassium iodide in 30 ml of acetone is stirred at 50° for 20 hours. The solid is removed by filtration and the solution is concentrated by evaporation. The resulting crude precursor (1) is purified by column chromatography (SiO2, hexane/ethyl acetate 1:1) and crystallised from ether; m.p. 77°-79°; 1H-NMR (CDCl3): δ=5.3 (2H,s), 7.15 and 7.5 (4H,m), 7.95 (1H,s), 8.08 (1H,m).

reactant | 4-bromobenzyl bromide | 1 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 1,2,4-triazole | 0.41 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 33 mg | [I-].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-(4-bromobenzyl)-1,2,4-triazole | BrC1=CC=C(CN2N=CN=C2)C=C1 | C9H8BrN3
